US04501687
25 ml of a solution of 1.1M of diisobutylaluminum hydride in toluene was added at -60° C. over 90 minutes to a solution of 5 g of 1,8,8-trimethyl-2-oxa-bicyclo [3,2,1] octane-3-one [process of Ronald et al, J.A.C.S., Vol. 81 (1959), p. 925] in 20 ml of toluene and the mixture was stirred for 2 hours at -60° C. Water was added dropwise while the temperature was allowed to rise to 20° C. and the mixture was then stirred at 20° C. for 2 hours. The mixture was filtered to remove lithium salts and the filter was washed with methylene chloride. The decanted aqueous phase of the filtrate was extracted with methylene chloride. The organic phase was dried and evaporated to dryness and the residue was chromatographed over silica gel. Elution with a 1--1 benzene-ethyl acetate mixture yielded 3.5 g of 1,8,8-trimethyl-2-oxa-bicyclo [3,2,1] octan-3-ol.

reactant | diisobutylaluminum hydride | 1.1M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 1,8,8-trimethyl-2-oxa-bicyclo [3,2,1] octane-3-one | 5 g | CC12OC(CC(CC1)C2(C)C)=O | C10H16O2
reactant | Water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1,8,8-trimethyl-2-oxa-bicyclo [3,2,1] octan-3-ol | 3.5 g | CC12OC(CC(CC1)C2(C)C)O | C10H18O2
